US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (60 mg) (0.101 mmol) and 40 mg (0.1318 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 3 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours the solvent is removed at room temperature in a high vacuum. The residual oil is treated with water and the precipitated product is filtered off. The whole is washed in succession with water, ethanol and diethyl ether and dried at room temperature in a high vacuum. There are obtained 62 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]- 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.101 mmol, 60 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)C)=O | C20H17N9O7S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.1318 mmol, 40 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(hydroxycarbamoyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]- 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 62 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)C)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C31H30N12O11S3
